US08106208B2
To a solution of [(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]methylamine (see Bioorg. Med. Chem. Lett; 2001; 265-270; 0.54 g, 2.8 mmol) and 3-bromo-5-trifluoromethyl benzoic acid (0.81 g, 3.0 mmol) in DMF (7 mL) were added TBTU (0.96 g, 3.0 mmol) and DIPEA (1.41 g, 10.9 mmol). The reaction mixture was stirred under nitrogen overnight at RT and then partitioned between ethyl acetate and an aqueous NaHCO3 solution. The aqueous phase was extracted twice with ethyl acetate. The combined organic solutions were washed twice with water and then dried by a phase separator column. The solvent was removed by evaporation and the product was purified by chromatography on silica gel (ethyl acetate-heptane 10% to 17%). There was obtained 0.86 g (68%) of 3-bromo-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-5-(trifluoromethyl)benzamide. 1H NMR (500 MHz, CDCl3): 2.1-3.8 (cm, 8H), 4.9-5.1 (m, 2H), 5.5-5.8 (m, 1H), 6.8-7.4 (cm, 6H), 7.8 (s, 1H). LCMS: m/z 445 (M+1)+.

reactant | [(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]methylamine | 2.8 mmol, 0.54 g | FC1=CC=C(C=C1)[C@@H](CNC)CC=C | C12H16FN
reactant | 3-bromo-5-trifluoromethyl benzoic acid | 3.0 mmol, 0.81 g | BrC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4BrF3O2
reactant | TBTU | 3.0 mmol, 0.96 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 10.9 mmol, 1.41 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 3-bromo-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-5-(trifluoromethyl)benzamide | 0.86 g, 68% | BrC=1C=C(C(=O)N(C)C[C@@H](CC=C)C2=CC=C(C=C2)F)C=C(C1)C(F)(F)F | C20H18BrF4NO
